US09085540B2
A mixture of 5-chloro-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (21 mg), tert-butyl (2-aminoethyl)methylcarbamate (31 mg), diisopropylethylamine (16 μL), and N-methylpyrrolidone (0.3 mL) was stirred at 140° C. for 2 hours and a half. To the reaction mixture was added PS-benzaldehyde (Biotage, 150 mg) at room temperature, N,N-dimethylformamide (1 mL) was added thereto, followed by stirring for 2 hours, and the insoluble matter was filtered. The filtrate was evaporated under reduced pressure and the obtained residue were added methanol (0.5 mL) and a 4 M hydrogen chloride-dioxane solution (0.45 mL), followed by stirring at room temperature for 8 hours. The solvent was evaporated under reduced pressure, and to the obtained residue were added tetrahydrofuran (0.9 mL) and a saturated aqueous sodium hydrogen carbonate solution (1 mL), followed by stirring at room temperature. Acryloyl chloride (8 μL) and tetrahydrofuran (0.1 mL) were added thereto at room temperature, followed by stirring for 4 hours. The reaction mixture was extracted with chloroform. The solvent of the organic phase was evaporated under reduced pressure and the obtained residue was purified by preparative HPLC (methanol/0.1% aqueous formic acid solution) to obtain 5-({2-[acryloyl (methyl)amino]ethyl}amino)-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (1 mg).

reactant | 5-chloro-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 21 mg | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C | C23H32ClN7O
reactant | tert-butyl (2-aminoethyl)methylcarbamate | 31 mg | NCCN(C(OC(C)(C)C)=O)C | C8H18N2O2
reactant | diisopropylethylamine | 16 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzaldehyde | 150 mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N-methylpyrrolidone | 0.3 mL | CN1C(CCC1)=O | C5H9NO
product | 5-({2-[acryloyl (methyl)amino]ethyl}amino)-6-ethyl-3-({4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 1 mg | C(C=C)(=O)N(CCNC=1N=C(C(=NC1CC)C(=O)N)NC1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C | C29H43N9O2
